US08026236B2
A mixture of methyl 6-((methylsulfonyloxy)methyl)picolinate (733 mg), 6-(4-hydroxy-3-(trifluoromethyl)phenyl)-1-methyl-1H-imidazo[4,5-c]pyridine-4-carbonitrile (950 mg), sodium iodide (44 mg) and potassium carbonate (830 mg) in acetonitrile (20 ml) was heated at 80° C. for 14 hours. After cooling to room temperature, water (30 ml) was added, the white precipitate was collected by filtration and washed with cold methanol (20 ml) to give methyl 6-((4-(4-cyano-1-methyl-1H-imidazo[4,5-c]pyridin-6-yl)-2-(trifluoromethyl)phenoxy)methyl)picolinate (1.1 g). 1H NMR (DMSO) δ: 8.81 (s, 1H), 8.71 (s, 1H), 8.53 (m, 2H), 8.20 (m, 1H), 8.11 (m, 1H), 7.83 (d, 1H), 7.63 (d, 1H), 5.60 (s, 2H), 4.06 (s, 3H), 3.98 (s, 3H). MS m/z 468 (M+1).

reactant | methyl 6-((methylsulfonyloxy)methyl)picolinate | 733 mg | CS(=O)(=O)OCC1=CC=CC(=N1)C(=O)OC | C9H11NO5S
reactant | 6-(4-hydroxy-3-(trifluoromethyl)phenyl)-1-methyl-1H-imidazo[4,5-c]pyridine-4-carbonitrile | 950 mg | OC1=C(C=C(C=C1)C1=CC2=C(C(=N1)C#N)N=CN2C)C(F)(F)F | C15H9F3N4O
reactant | sodium iodide | 44 mg | [I-].[Na+]
reactant | potassium carbonate | 830 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
solvent | water | 30 ml | O | H2O
product | methyl 6-((4-(4-cyano-1-methyl-1H-imidazo[4,5-c]pyridin-6-yl)-2-(trifluoromethyl)phenoxy)methyl)picolinate | 1.1 g | C(#N)C1=NC(=CC2=C1N=CN2C)C2=CC(=C(OCC1=CC=CC(=N1)C(=O)OC)C=C2)C(F)(F)F | C23H16F3N5O3
